US07199124B2
3-ethyl benzoic acid
Under an argon atmosphere, a solution of 1-bromo-3-ethylbenzene (5.1 g, 28 mmol) in tetrahydrofuran (45 mL) was added dropwise to a mixture of magnesium turnings (0.74 g, 31 mmol) in tetrahydrofuran (5.0 mL), and the mixture was stirred for 30 min. The reaction mixture was added to crushed dry ice and stirred for 1 hr. 1N Hydrochloric acid was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was dried, filtered and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=5:1) to give the title compound (3.87 g, yield 93%).

reactant | 1-bromo-3-ethylbenzene | 28 mmol, 5.1 g | BrC1=CC(=CC=C1)CC | C8H9Br
reactant | magnesium | 31 mmol, 0.74 g | [Mg] | Mg
reactant | dry ice | C(=O)=O | CO2
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | 3-ethyl benzoic acid | 3.87 g, yield 93% | C(C)C=1C=C(C(=O)O)C=CC1 | C9H10O2
